US04678498
5-Bromomethyl-N-(1,1-dimethylethyl)-2-methoxybenzenesulfonamide
A mixture of 27 g of N-(1,1-dimethylethyl)-2-methoxy-5-methylbenzenesulfonamide (E. H. Huntress and F. H. Carten, J. Am. Chem. Soc., 62 (1940), 603), 19.6 g NBS and 0.3 g azobisisobutyronitrile in 200 ml CH2Cl2 was refluxed and illuminated with a sun lamp. After 8 hours the lamp was turned off and the reaction was refluxed for another 24 hr. The reaction was allowed to cool. The reaction mixture was washed with 200 ml of a 1:1:1:1 mixture of brine:sodium sulfite:sodium bicarbonate:water. The organic layer was dried (MgSO4), treated with charcoal and filtered through a 5 g plug of silica gel. The plug was washed with 100 ml of chloroform. The combined organic fractions were evaporated to give 34 g of solid, m.p. 137°-142° C.

reactant | N-(1,1-dimethylethyl)-2-methoxy-5-methylbenzenesulfonamide | 27 g | CC(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)C)OC | C12H19NO3S
reactant | NBS | 19.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | azobisisobutyronitrile | 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 5-Bromomethyl-N-(1,1-dimethylethyl)-2-methoxybenzenesulfonamide | 34 g | BrCC=1C=CC(=C(C1)S(=O)(=O)NC(C)(C)C)OC | C12H18BrNO3S
